US03939175
30 g (0.087 mol) of 5-(3',5'-di-tert.-butyl-4'-hydroxyphenylethyl)-5-methyl-hydantoin and 13.1 g (0.131 mol) of acrylic acid ethyl ester are dissolved in 100 ml of ethanol, 2 ml of a 40% strength solution of benzyl-trimethyl-ammonium hydroxide in methanol are added and the mixture is heated under reflux for 12 hours, whilst stirring. Thereafter it is neutralised with glacial acetic acid, diluted with 50 ml of water and cooled whilst stirring. The precipitate formed is filtered off, washed with 50% strength ethanol and recrystallised from 70% strength alcohol. 29 g of 5-(3',5'-di-tert.-butyl-4'-hydroxy-phenylethyl)-5-methyl-3-ethoxycarbonylethyl-hydantoin of melting point 100°C are thus obtained. (Stabiliser No. 9).

reactant | 5-(3',5'-di-tert.-butyl-4'-hydroxyphenylethyl)-5-methyl-hydantoin | 0.087 mol, 30 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(NC(N1)=O)=O)C | C20H30N2O3
reactant | acrylic acid ethyl ester | 0.131 mol, 13.1 g | C(C)OC(C=C)=O | C5H8O2
reactant | benzyl-trimethyl-ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 5-(3',5'-di-tert.-butyl-4'-hydroxy-phenylethyl)-5-methyl-3-ethoxycarbonylethyl-hydantoin | 29 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(N(C(N1)=O)CCC(=O)OCC)=O)C | C25H38N2O5
